US09290517B2
Step C: (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
Triethylamine (30 μl, 0.215 mmol) and methanesulfonyl chloride (4.5 μl, 0.058 mmol) were added to a stirred suspension of (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol; 2,2,2-trifluoroacetate (29.1 mg, 0.049 mmol) in DCM (0.5 ml). After 10 min, 1,4-dioxane (0.5 ml) was added to the reaction mixture. Following sonication, the reaction mixture was a yellow suspension. After stirring for an additional 10 min, the reaction mixture was evaporated under reduced pressure. DMF (0.5 ml), triethylamine (30 μl, 0.215 mmol), and methanesulfonyl chloride (4.5 μl, 0.058 mmol) were added to the resulting residue to give a fine yellow suspension that was stirred at room temperature. After 30 min, EtOAc (2 ml) was added to the reaction mixture, causing a white precipitate to form. The reaction mixture was filtered and the filtrate was partitioned between EtOAc (30 ml) and water (30 ml). The organic filtrate was washed with water (2×10 ml) and brine (1×10 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a white residue. THF (1.0 ml) was added followed by potassium trimethylsilanolate (41.6 mg, 0.324 mmol). The reaction mixture was a pale yellow suspension that was stirred at room temperature. After 20 hours, the reaction mixture was evaporated under reduced pressure to give a yellow/white solid. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient followed by a 80% acetonitrile/water+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C24H23ClN6O6S 558.11 observed m/e: 559.18 (M+H)+ (Rt 1.06/2 min); 1H NMR δ (ppm) ((CD3)2SO): 8.43 (s, 1H), 7.98 (broad s, 1H), 7.90 (d, J=8.5 Hz, 2H), 7.77 (d, J=8.6 Hz, 1H), 5.48 (qt, J=5.7 Hz, 1H), 4.99 (d, J=6.5 Hz, 1H), 4.84 (t, J=5.1 Hz, 1H), 4.54 (s, 2H), 4.51 (s, 2H), 4.36 (t, J=4.8 Hz, 1H), 4.10-4.17 (m, 2H), 3.91 (dd, J=5.9 Hz, J=9.5 Hz, 1H), 3.78 (t, J=7.4 Hz, 1H), 3.43 (t, J=8.5 Hz, 1H), 3.05 (s, 3H).

reactant | Triethylamine | 0.215 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.058 mmol, 4.5 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1N=C3C(=C1)CNC3)N=C(N2)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3O | C23H21ClN6O4
reactant | 2,2,2-trifluoroacetate | 0.049 mmol, 29.1 mg | FC(C(=O)[O-])(F)F
reactant | triethylamine | 0.215 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.058 mmol, 4.5 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium trimethylsilanolate | 0.324 mmol, 41.6 mg | C[Si]([O-])(C)C.[K+]
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | (3R,3aR,6R,6aR)-6-[[6-chloro-5-[4-(5-methylsulfonyl-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1N=C3C(=C1)CN(C3)S(=O)(=O)C)N=C(N2)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3O | C24H23ClN6O6S
